### PR TITLE
[Merged by Bors] - fix(AlgebraicGeometry/Modules/Tilde): remove duplicate namespace

### PR DESCRIPTION
**Pull request by grunweg**
The Scheme.Modules namespace was duplicated in the declaration.
Found by the strengthening the `dupNamespace` linter in #39793.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by justus-springer — APPROVED** [review]

File: Mathlib/AlgebraicGeometry/Modules/Tilde.lean [hunk 1]
```diff
@@ -121,19 +121,23 @@ lemma isSMulRegular_of_le_basicOpen {f : R} (hle : U ≤ PrimeSpectrum.basicOpen
...
   have :
       f ≫ (ΓSpecIso S).inv ≫ (Spec S).presheaf.map U.leTop.op ≫ (Hom.appIso (Spec.map f) U).inv =
         (ΓSpecIso R).inv ≫ (Spec R).presheaf.map (Spec.map f ''ᵁ U).leTop.op := by
     simp [Iso.cancel_iso_inv_left, Hom.app_eq_appLE]
     rfl
   rw [this]
+set_option linter.dupNamespace false in
+
+@[deprecated (since := "2026-06-04")]
+alias Scheme.Modules.restrictAppIso_smul_Spec := restrictAppIso_smul_Spec
```
Comment (Vierkantor) [inline Mathlib/AlgebraicGeometry/Modules/Tilde.lean]:
```suggestion

set_option linter.dupNamespace false in
@[deprecated (since := "2026-06-04")]
alias Scheme.Modules.restrictAppIso_smul_Spec := restrictAppIso_smul_Spec
```

**Review by Vierkantor — APPROVED** [review]
Thanks! 🎉 

bors d+

**Comment by grunweg** [comment]
Thanks for the fast review!
bors merge

**Comment by chrisflav** [comment]
Thanks for fixing this, my bad!

**Comment by grunweg** [comment]
No worries, mistakes happen - and that's we should have tools to help us with!
